US04127661
1-[N(1-phenoxy-2-propyl)piperazino]-1-phenyl-2-propanol
To 1-[N(1-phenoxy-2-propyl)piperazino]-1-phenyl-acetone (1 mole) dissolved in methanol (1000 ml) is added BH4K (1 mole), portionwise at 0° C. Stirring is continued during 24 hours at room temperature. The methanol is removed in vacuo and the residue is taken up into ether and water. The ether phase is washed with water to neutral pH. The ether is evaporated off. The resulting white precipitate is taken up into ethanol to which is added an ethereal solution of hydrochloric acid. The white crystals obtained after recrystallization from ethanol melt at 237°-240° C.

reactant | 1-[N(1-phenoxy-2-propyl)piperazino]-1-phenyl-acetone | 1 mole | O(C1=CC=CC=C1)CC(C)N1CCN(CC1)C(C(=O)C)C1=CC=CC=C1 | C22H28N2O2
solvent | methanol | 1000 ml | CO | CH4O
product | 1-[N(1-phenoxy-2-propyl)piperazino]-1-phenyl-2-propanol | O(C1=CC=CC=C1)CC(C)N1CCN(CC1)C(C(C)O)C1=CC=CC=C1 | C22H30N2O2
